US04371537
To 3.68 g of p-hydroxyacetophenone in a 25 ml THF/25 ml DMSO mixture was added 3.2 g of t-BuOK and then 10.03 g of 2,5-bis(cyclohexylsulfonyl)pyridine, and the resulting mixture was heated at 62° C. for 11/2 hrs. The reaction mixture was cooled overnight, then added to 4 volumes of water and the crude product which formed recovered by filtration. Recrystallization of the crude product from CH2Cl2 /ethanol gave the product, 1-(4-((5-(cyclohexylsulfonyl)-2-pyridinyl)oxy)phenyl)ethanone, (31% yield), as light yellow prisms, m.p. 116°-118° C.

reactant | p-hydroxyacetophenone | 3.68 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | THF | 25 ml | C1CCOC1 | C4H8O
reactant | t-BuOK | 3.2 g | CC(C)(C)[O-].[K+]
reactant | 2,5-bis(cyclohexylsulfonyl)pyridine | 10.03 g | C1(CCCCC1)S(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C1CCCCC1 | C17H25NO4S2
solvent | water | O | H2O
product | 1-(4-((5-(cyclohexylsulfonyl)-2-pyridinyl)oxy)phenyl)ethanone | 31% yield | C1(CCCCC1)S(=O)(=O)C=1C=CC(=NC1)OC1=CC=C(C=C1)C(C)=O | C19H21NO4S
